US07951824B2
(3-{[4-(3,5-Difluorophenyl)-6-methyl-pyridine-2-carbonyl]-amino}-pyrazol-1-yl)-acetic acid ethyl ester
The title compound, was prepared from 4-(3,5-Difluorophenyl)-6-methyl-pyridine-2-carboxylic acid ethyl ester in accordance with the general method of example 26, step 6 using Ethyl (3-Amino-1-pyrazolyl)acetate instead of 3-chloroaniline to yield the final compound as a white crystalline, MS (ISP): m/e=401.2 (M+H)+.

reactant | 4-(3,5-Difluorophenyl)-6-methyl-pyridine-2-carboxylic acid ethyl ester | C(C)OC(=O)C1=NC(=CC(=C1)C1=CC(=CC(=C1)F)F)C | C15H13F2NO2
reactant | Ethyl (3-Amino-1-pyrazolyl)acetate | NC1=NN(C=C1)CC(=O)OCC | C7H11N3O2
product | (3-{[4-(3,5-Difluorophenyl)-6-methyl-pyridine-2-carbonyl]-amino}-pyrazol-1-yl)-acetic acid ethyl ester | C(C)OC(CN1N=C(C=C1)NC(=O)C1=NC(=CC(=C1)C1=CC(=CC(=C1)F)F)C)=O | C20H18F2N4O3
